US07101886B2
4-[2-(4-Benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine was diluted to 0.40 M with anhydrous dichloromethane, then delivered to an 8 mL vial via pipette (0.2 mmol). To the amine solution was added base (0.4 M triethylamine in dichloromethane, 0.20 mmol). Pyrazine-2-carbonyl chloride was diluted to 0.40 M with dichloromethane, and added at rt (0.2 mmol). The reaction was shaken overnight at rt, then evaluated by MS. The reaction was concentrated using an HT-12 GeneVac, then purified by HPLC (30×100 mm ODS-A C(18) 5u column). Pyrazine-2-carboxylic acid {4-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenyl}-amide was isolated in 88% purity @ 254 nm, LCMS (APCI): 445 [M+H]+.

reactant | 4-[2-(4-Benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)N | C19H22N4S
reactant | triethylamine | 0.4 M | C(C)N(CC)CC | C6H15N
reactant | Pyrazine-2-carbonyl chloride | N1=C(C=NC=C1)C(=O)Cl | C5H3ClN2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Pyrazine-2-carboxylic acid {4-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenyl}-amide | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)NC(=O)C2=NC=CN=C2 | C24H24N6OS
